US04182757
6.0 g of 1-(2-chloroethyl)-3-isopropyl-3-D-glucopyranosylurea are dissolved in 50 ml of 10% hydrochloric acid, and 6 g of sodium nitrite are added gradually thereto at 0° to 5° C. under stirring. The mixture is further stirred at the same temperature for 10 minutes. The reaction mixture is extracted with ethyl acetate. The extract is washed with an aqueous sodium bicarbonate solution, dried and evaporated to remove solvent. Then, the residue thus obtained is purified by silica gel chromatography (Solvent: chloroform-methanol(5:1)). 2.0 g of 1-(2-chloroethyl)-1-nitroso-3-isopropyl-3-D-glucopyranosylurea are thereby obtained as pale yellow caramel.

reactant | 1-(2-chloroethyl)-3-isopropyl-3-D-glucopyranosylurea | 6.0 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C(C)C | C12H23ClN2O6
reactant | sodium nitrite | 6 g | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 1-(2-chloroethyl)-1-nitroso-3-isopropyl-3-D-glucopyranosylurea | 2.0 g | ClCCN(C(=O)N(C1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C(C)C)N=O | C12H22ClN3O7
